US04200641
To a stirred solution of 76 parts of 1-{-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one in 280 parts of ethanol are added 120 parts of a hydrochloric acid solution and 250 parts of water. The whole is stirred for 30 minutes at room temperature. Upon cooling in an ice-bath, the product is precipitated. It is filtered off, washed with 2-propanone and with 2,2'-oxybispropane, and dried, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride, hydrate; mp. 237.5° C.

reactant | 1-{-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O)C2=CC=CC=C2 | C30H34N4O
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C27H30N4O.2ClH/c32-27-28-24-14-7-8-15-25(24)31(27)17-9-16-29-18-20-30(21-19-29)26(22-10-3-1-4-11-22)23-12-5-2-6-13-23;;/h1-8,10-15,26H,9,16-21H2,(H,28,32);2*1H
